.SUBCKT NAND4BX1P4H7R AN B C D VDD VSS Y
*.PININFO AN:I B:I C:I D:I Y:O VDD:B VSS:B
MMN4 net7 B net28 VSS nm1p2_svt_lp W=245n L=60n m=1
MMN5 net28 net36 VSS VSS nm1p2_svt_lp W=245n L=60n m=1
MMN3 net10 C net7 VSS nm1p2_svt_lp W=245n L=60n m=1
MMN0 Y D net10 VSS nm1p2_svt_lp W=245n L=60n m=1
MMP3 Y net36 VDD VDD pm1p2_svt_lp W=314n L=60n m=1
MMP2 Y D VDD VDD pm1p2_svt_lp W=314n L=60n m=1
MMP1 Y C VDD VDD pm1p2_svt_lp W=314n L=60n m=1
MMP0 Y B VDD VDD pm1p2_svt_lp W=314n L=60n m=1
XXI3 AN VDD VSS net36 / INV pl=6e-08 pw=1.9e-07 nl=6e-08 nw=1.5e-07
.ENDS
